US06890959B2
448.5 g 1,3-cyclohexanedione, 416 g 2,2-dimethyl-1,3-propanediol and 12 g p-toluenesulfonic acid were introduced into 3,000 ml methylene chloride and the mixture was heated under reflux for 24 hours using a water separator. When the reaction had ended the mixture was cooled to room temperature and 2,000 ml 32% sodium hydroxide solution were added. The phases were separated and the organic phase was washed first with sodium bicarbonate solution (44.4 g sodium bicarbonate solution/850 ml water) and then with 350 ml water. The organic phase was dried over sodium sulfate and the solvent was then evaporated in vacuo. 345 g (50% of theory) 3,3-dimethyl-1,5-dioxa-spiro[5.5]undecan-8-one were obtained in this way.

reactant | 1,3-cyclohexanedione | 448.5 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 2,2-dimethyl-1,3-propanediol | 416 g | CC(CO)(CO)C | C5H12O2
reactant | methylene chloride | 3,000 ml | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 2,000 ml | [OH-].[Na+]
catalyst | p-toluenesulfonic acid | 12 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 3,3-dimethyl-1,5-dioxa-spiro[5.5]undecan-8-one | 345 g, 50% | CC1(COC2(OC1)CC(CCC2)=O)C | C11H18O3
